US06348474B1
Methyl 3-[2-chloro-4-[(2,4-dioxo-1,3-thiazolidin-5-ylidene)methyl]-benzyl]-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
A suspension of methyl 3-(2-chloro-4-formylbenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (200 mg, 0.582 mmol), thiazolidine-2,4-dione (82 mg, 0.698 mmol) and piperidine (25 mg, 0.291 mmol) in ethanol (4 ml) was refluxed under heating overnight. The reaction mixture was cooled, and the precipitated crystals were filtrated to give the objective compound (189 mg) as pale-yellow crystals.

reactant | methyl 3-(2-chloro-4-formylbenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 0.582 mmol, 200 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)C=O | C17H14ClN3O3
reactant | thiazolidine-2,4-dione | 0.698 mmol, 82 mg | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.291 mmol, 25 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | Methyl 3-[2-chloro-4-[(2,4-dioxo-1,3-thiazolidin-5-ylidene)methyl]-benzyl]-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 189 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)C=C1C(NC(S1)=O)=O | C20H15ClN4O4S
